US08859580B2
4-Methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-trien-10-one
3-Carboxymethyl-5-methoxy-indan-1-yl-ammonium chloride (13.2 g) and 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide methyl-p-toluenesulfonate (21.7 g) dissolved in pyridine (500 mL) is stirred at room temperature for 7 d. Then, the pyridine is removed under reduced pressure and the residue is taken up in water (200 mL) and dichloromethane (200 mL). The organic phase is separated and the aqueous phase is extracted twice with dichloromethane. The combined organic phases are washed with 1 M hydrochloric acid, 1 M NaOH solution, and water. After drying (MgSO4), the solvent is evaporated under reduced pressure to yield the product as a beige solid.

reactant | 3-Carboxymethyl-5-methoxy-indan-1-yl-ammonium chloride | 13.2 g | [Cl-].C(=O)(O)CC1CC(C2=CC=C(C=C12)OC)[NH3+]
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide methyl-p-toluenesulfonate | 21.7 g | COS(=O)(=O)C1=CC=C(C=C1)C.C1(CCCCC1)N=C=NCCN1CCOCC1
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-trien-10-one | COC=1C=C2C3CC(NC(C2=CC1)C3)=O | C12H13NO2
